US07176242B2
N1-{(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-N3-methyl-5-(1,3-oxazol-2-yl)-N3-propylisophthalamide
To 3-{[Methyl(propyl)amino]carbonyl}-5-(1,3-oxazol-2-yl)benzoic acid (350 mg, 1.2 mmol) in DMF (5 mL) is added diisopropylethylamine (835 μL, 4.8 mmol), HATU (554 mg, 1.5 mmol), then (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride prepared by the method of EXAMPLE SP-272 (488 mg, 1.2 mmol). The reaction is stirred for 16 h at room temperature. The reaction is partitioned between chloroform and water. The organic layer is washed with 1 N hydrochloric acid, saturated sodium bicarbonate, and saturated sodium chloride, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 9% methanol/chloroform) gives the title compound. ESI MS m/z 605.3 [M+H]+.

reactant | 3-{[Methyl(propyl)amino]carbonyl}-5-(1,3-oxazol-2-yl)benzoic acid | 1.2 mmol, 350 mg | CN(C(=O)C=1C=C(C(=O)O)C=C(C1)C=1OC=CN1)CCC | C15H16N2O4
reactant | diisopropylethylamine | 4.8 mmol, 835 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 1.5 mmol, 554 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N1-{(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-N3-methyl-5-(1,3-oxazol-2-yl)-N3-propylisophthalamide | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(C2=CC(C(=O)N(CCC)C)=CC(=C2)C=2OC=CN2)=O)C=C(C1)F | C34H38F2N4O4
